Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Zosyn
 
Attending: ___.
 
Chief Complaint:
dyspnea
 
Major Surgical or Invasive Procedure:
Bronchoscopy ___
 
History of Present Illness:
Ms. ___ is a ___ yo female with history of ALS, ventilator 
dependence with tracheostomy and PEG, history of seizure 
disorder, nonverbal but interactive at baseline, who presents as 
a transfer from ___ for hypoxemia.

Recently admitted in the last month twice to ___. The first 
was for a VAP which she was treated with a 14 day course of 
ceftazidime. This course was supposed to have ended on ___. On 
the ___ admission she was admitted for periods of 
unresponsiveness and the concern for seizures. Neuro was 
consulted on that admission and ultimately did not think that 
she was having seizures based on eeg evaluation. She was 
switched from cefepime to ceftazidime in case the abx selection 
was contributing to her mental status.

Per report, patient was at ___ and acutely desatted 
down to the 40's with associated respiratory distress. EMS was 
called and en route her O2 sats improved with tracheal 
suctioning. At ___, VBG shows a pH of 7.3/47 and CXR 
showed possible left lower lobe infiltrate per ED physician 
___. Official read of CXR shows no acute intrathoracic 
process. Significant labs showed: WBC of 13, platelets of 673, 
glucose of 323 and tropI of 0.01. She was started on 
vanc/cefepime and brought to ___.

In the ED, intial VS: 96.0 84 124/80 20 98% on 40%Fi02
Patient continued on mechanical ventilation at 15 x ___, PEEP 5 
FI02 40% (discharge settings 20 x ___ PEEP 8 FIO2 30%)
Labs significant for WBC of 11 and trop0 of 0.16.
She was given Levaquin 750mg

On arrival to the MICU, she is currently calm and answering yes 
or no questions. She currently denies difficulty breathing, 
chest pain, abdominal pain. She does say she has pain in her 
right leg and kicks her right leg every now and then. She cannot 
localize the pain as I point to different parts of the leg.
 

 
Past Medical History:
Amyotrophic lateral sclerosis - followed at ___
DM
Possible frontal lobe dementia
Possible schizoaffective d/o
 
Social History:
___
Family History:
Unable to obtain
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals:97.6 113 103/41 22 100% on 40%FiO2
GENERAL: Alert, answers yes no questions with nods, cannot 
verbalize
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: trach in place, no surrounding erythema 
LUNGS: upper airway rhonchorous sounds transmitted to lung 
fields anteriorly  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN: No rashes 
NEURO: unable to participate in neuro exam completely due to 
communication. Able to move right ___, move feet bilaterally, 
Unable to move arms. Eyes move concordantly. Able to shake head, 
nod head.

DISCHARGE PHYSICAL EXAM:
Vitals: HR 69, RR 14 on vent, BP 124/76, 99% O2 Sat
Vent settings: CMV, Rate of 14, Volume 400, PEEP 5, FiO2 40%, 
producing a minute ventilation of 5.6L and peak pressure of 17.
GENERAL: Alert trached female lying in bed, on vent, no acute 
distress
HEENT: Trach in place, otherwise NCAT; rolls eyes / nods head 
NECK: Trach in place
LUNGS:  Bilateral rhoncorous breath sounds
CV: Slight tachycardia, no M/R/G
ABD: Soft, nontender
EXT: Unable to move extremities. No peripheral edema.
SKIN: Warm, dry
NEURO: Rolls her eyes and nods her head to communicate. No Motor 
strength in extremities.
 
Pertinent Results:
ADMISSION LABS
___ 06:00AM BLOOD WBC-11.8* RBC-4.14 Hgb-11.0* Hct-34.9 
MCV-84 MCH-26.6 MCHC-31.5* RDW-14.3 RDWSD-43.7 Plt ___
___ 06:00AM BLOOD ___ PTT-31.4 ___
___ 06:00AM BLOOD Glucose-171* UreaN-34* Creat-0.5 Na-137 
K-5.4* Cl-99 HCO3-25 AnGap-18
___ 06:00AM BLOOD cTropnT-0.16*
___ 06:09AM BLOOD Lactate-1.9
___ 09:28AM BLOOD Type-CENTRAL VE pO2-38* pCO2-44 pH-7.45 
calTCO2-32* Base XS-5

CXR
Small areas of residual consolidation or atelectasis persist at 
the lung 
bases, not enough to explain respiratory insufficiency.  Upper 
lungs are 
clear.  Heart size top-normal.  No pleural abnormality. 
  
Tracheostomy tube midline. 

DISCHARGE LABS:

___ 10:43AM BLOOD Hgb-9.6* Hct-30.5*
___ 03:04AM BLOOD WBC-6.8 RBC-3.14* Hgb-8.5* Hct-25.9* 
MCV-83 MCH-27.1 MCHC-32.8 RDW-14.5 RDWSD-43.2 Plt ___
___ 03:04AM BLOOD Plt ___
___ 03:04AM BLOOD ___ PTT-52.0* ___
___ 03:04AM BLOOD Glucose-178* UreaN-10 Creat-0.4 Na-137 
K-3.6 Cl-102 HCO3-23 AnGap-16
___ 04:21AM BLOOD Glucose-81 UreaN-13 Creat-0.4 Na-142 
K-3.6 Cl-106 HCO3-26 AnGap-14
___ 03:04AM BLOOD Calcium-9.1 Phos-3.0 Mg-1.6
___ 05:08AM BLOOD ___ Temp-36.4 Rates-14/ Tidal V-400 
PEEP-5 FiO2-40 pO2-36* pCO2-39 pH-7.45 calTCO2-28 Base XS-2 
Intubat-INTUBATED
___ 05:08AM BLOOD Lactate-0.8

___ 12:30 pm BRONCHIAL WASHINGS

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   RESPIRATORY CULTURE (Final ___: 
      Commensal Respiratory Flora Absent. 
      ACINETOBACTER BAUMANNII COMPLEX.    ___ 
ORGANISMS/ML.. 
         IDENTIFICATION AND SENSITIVITIES PERFORMED ON CULTURE # 
___
         SPUTUM FROM ___.. 
      STENOTROPHOMONAS MALTOPHILIA.    10,000-100,000 
ORGANISMS/ML.. 
         SENSITIVITIES PERFORMED ON CULTURE # ___ SPUTUM 
___. 
      PSEUDOMONAS AERUGINOSA.    10,000-100,000 ORGANISMS/ML.. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             PSEUDOMONAS AERUGINOSA
                             |   
CEFEPIME--------------     4 S
CEFTAZIDIME-----------     4 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------     4 S
MEROPENEM-------------     1 S
PIPERACILLIN/TAZO-----    16 S
TOBRAMYCIN------------   <=1 S

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 

 
Brief Hospital Course:
Ms. ___ is a ___ yo female with history of ALS, ventilator 
dependence with tracheostomy and PEG, history of seizure 
disorder, nonverbal but interactive at baseline, who presents as 
a transfer from ___ for hypoxemia.

#Respiratory Failure: patient ventilator dependent from ALS with 
chronic trach. Desatted acutely at nursing facility and improved 
rapidly with suctioning. Etiology likely mucus plugging from 
impaired secretion clearance due to ALS. No infiltrate on 
imaging to suggest PNA, was not treated with antibiotics in ICU. 
MIE (cough assist device) used q8hours effectively here. 
Bronchoscopy did not show any residual plugging. Patient is 
being discharged to a facility that has respiratory therapy on 
site to prevent this type of occurrence from happening again.

#G-tube placement: patient presented with foley tubing in g-tube 
stoma that was being used as g-tube. Patient underwent ___ guided 
placement of appropriate G-J tube that functioned well following 
placement.  

#Troponinemia: Patient with trop of 0.16, less than last trop of 
0.21 on previous admission which was not thought to represent 
ACS, but rather pericarditis given PR elevation and small 
effusion seen on echo. Denied any chest pain and EKG showed ST 
changes consistent with prior. Likely related to LVH.

#Seizure PPX: Patient admitted for episodes of AMS with concern 
for seizure last admission. Although she ultimately was thought 
not to be having seizures, given her risk she was continued on 
Keppra and this was continued on this admission.

#IDDM:
Continued lantus/regular insulin

#Agitation/?shizoaffective disorder: 
Continued home Seroquel and setraline

Transitional Issues:
Please use MIE as frequently as possible (at least q6h) to 
prevent mucus plugging
Please note ventilator settings noted in discharge physical exam
Please note bronchoscopy showed no significant mucous plugging; 
see detailed culture results from ___ bronchoscopy in results 
section.

# Communication: HCP:  Legal Guardian ___: 
___
# Code: Full, per legal guardian
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
3. Ferrous Sulfate (Liquid) 300 mg PO DAILY 
4. GuaiFENesin ___ mL PO Q4H 
5. Glargine 10 Units Breakfast
Insulin SC Sliding Scale using REG Insulin
6. Metoprolol Tartrate 12.5 mg PO Q6H 
7. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
8. QUEtiapine Fumarate 12.5 mg PO DAILY:PRN agitation 
9. Sertraline 150 mg PO DAILY 
10. Omeprazole 40 mg PO DAILY 
11. Docusate Sodium 100 mg PO BID 
12. LevETIRAcetam 750 mg PO BID 
13. QUEtiapine Fumarate 75 mg PO QHS:PRN insomnia, agitation 
14. LORazepam 0.5 mg PO Q8H 
15. Acetaminophen 650 mg PO Q6H 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 80 mg PO QPM 
4. Ferrous Sulfate (Liquid) 300 mg PO DAILY 
5. GuaiFENesin ___ mL PO Q4H 
6. Glargine 10 Units Breakfast
Insulin SC Sliding Scale using REG Insulin
7. LevETIRAcetam 750 mg PO BID 
8. LORazepam 0.5 mg PO Q8H 
9. Omeprazole 40 mg PO DAILY 
10. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
11. QUEtiapine Fumarate 12.5 mg PO DAILY:PRN agitation 
12. QUEtiapine Fumarate 75 mg PO QHS:PRN insomnia, agitation 
13. Sertraline 150 mg PO DAILY 
14. Metoprolol Succinate XL 50 mg PO DAILY 
15. Docusate Sodium 100 mg PO BID 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Respiratory Failure
ALS

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Bedbound.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted because you were having trouble breathing. We 
believe this is because you had some mucus in your lungs. You 
improved when we suctioned this out. You will be going to a 
facility with respiratory therapists to hopefully prevent this 
from happening again.

Sincerely,

Your ___ Team
 
Followup Instructions:
___